US03931199
To a solution of 1.03 g of metallic sodium in 27 ml of methanol are added 10 g of p-hydroxyacetophenone and 3.36 g of 2-chloronicotinic acid. The methanol is removed by raising the temperature. The mixture is allowed to stand at 160°-170°C for 2.5 hours. Water is added to the reaction mixture, and the precipitate (excess p-hydroxyacetophenone) is removed by filtration. The filtrate is acidified with hydrochloric acid to yield crystals. The crystals are filtered off, washed with water and chloroform to give 2-(p-acetylphenoxy)nicotinic acid melting at 184°-186°C.

reactant | sodium | 1.03 g | [Na] | Na
reactant | p-hydroxyacetophenone | 10 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | 2-chloronicotinic acid | 3.36 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
solvent | methanol | 27 ml | CO | CH4O
product | 2-(p-acetylphenoxy)nicotinic acid | C(C)(=O)C1=CC=C(OC2=C(C(=O)O)C=CC=N2)C=C1 | C14H11NO4
